US07153873B2
3-acetyl-1-cyclohexylamino-2-phenyl-imidazo[1,2-a]-quinolin-3-ium chloride
Example 5 was carried out in accordance with the general directions for synthesis in process step a) from 1.0 ml (0.1 mmol) 2-amino-quinoline (0.1 M, DCM), 0.575 ml (0.115 mmol) cyclohexylisonitrile solution (0.2 M, DCM), 0.500 ml (0.15 mmol) benzaldehyde solution (0.3 M, DCM) and 10 μl perchloric acid (w=20%) and in process step c) and d) by reacting the resultant reaction product with 0.4 mmol acetylchloride.

reactant | 2-amino-quinoline | 0.1 mmol, 0.1 M, 1.0 ml | NC1=NC2=CC=CC=C2C=C1 | C9H8N2
reactant | cyclohexylisonitrile | 0.115 mmol, 0.2 M, 0.575 ml | C1(CCCCC1)[N+]#[C-] | C7H11N
reactant | benzaldehyde | 0.15 mmol, 0.3 M, 0.500 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetylchloride | 0.4 mmol | C(C)(=O)Cl | C2H3ClO
solvent | perchloric acid | 10 μl | Cl(=O)(=O)(=O)O | ClHO4
product | 3-acetyl-1-cyclohexylamino-2-phenyl-imidazo[1,2-a]-quinolin-3-ium chloride | [Cl-].C(C)(=O)[N+]=1C(=C(N2C1C=CC1=CC=CC=C21)NC2CCCCC2)C2=CC=CC=C2 | InChI=1S/C25H26N3O.ClH/c1-18(29)27-23-17-16-19-10-8-9-15-22(19)28(23)25(26-21-13-6-3-7-14-21)24(27)20-11-4-2-5-12-20;/h2,4-5,8-12,15-17,21,26H,3,6-7,13-14H2,1H3;1H/q+1;/p-1
